US04990515
1-Ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is prepared under the conditions of Reference Example 1 but starting from 2.1 g of 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid, 20 cm3 of pyridine and 2.4 g of 2-methylpiperazine.

reactant | 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 2.1 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C15H10ClFN2O3
reactant | 2-methylpiperazine | 2.4 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C)=O)C(=O)O | C20H21FN4O3
